US04895596
Into a 300 ml-round bottom flask equipped with a refluxed condenser, a thermometer, a stirrer and a gas-blowing tube were charged 100 ml (119 g.) of dimethyl phthalate, 180 mg. of palladium acetate, 48 mg. of copper acetate monohydrate and 159 mg. of o-phenanthroline monohydrate, and they were heated at 220° C. in an oil bath for 8 hours, while bubbling air at a rate of 300 ml/min under stirring at approx. 500 rpm, to perform dimerization of dimethyl phthalate so as to produce tetramethyl biphenyltetracarboxylate. The liquid reaction mixture contained 85.1 mg. of palladium and 15.2 mg. of copper.

reactant | o-phenanthroline monohydrate | C1=CC2=C(C3=C(C=CC=N3)C=C2)N=C1.O
reactant | dimethyl phthalate | 100 ml, 119 g | C(C=1C(C(=O)OC)=CC=CC1)(=O)OC | C10H10O4
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper acetate monohydrate | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | tetramethyl biphenyltetracarboxylate | C1(=C(C(=C(C(=C1)C(=O)OC)C(=O)OC)C(=O)OC)C(=O)OC)C1=CC=CC=C1 | C20H18O8
